data/mechanism_extracts/Angew/10.1002_anie.202501424.json
{"doi": "10.1002_anie.202501424", "journal": "Angew", "is_review": false, "rxn_class_summary": "Electrochemical amino-oxygenation cyclization of aryl alkenes with sulfonamide-tethered alcohol bisnucleophiles to form saturated 6-, 7-, and 8-membered N/O-heterocycles (morpholines, 1,4-oxazepanes, 1,4-oxazocanes).", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "radical_cation", "cation_initiated", "anion_initiated"], "electrochemical_role": "Anodic oxidation of the aryl alkene to an alkene radical cation; cathodic reduction of protons to H2; no redox mediator and undivided cell.", "key_intermediates": [{"name": "N-centered sulfonamide anion (I) from DBU deprotonation of N-(2-hydroxyethyl)benzenesulfonamide 1a", "smiles": "[O-]CC[N-]S(=O)(=O)c1ccccc1", "role": "reactive"}, {"name": "Aryl alkene radical cation (II) from anodic oxidation of 2b (alpha-methylstyrene)", "smiles": null, "role": "transient"}, {"name": "Carbon-centered radical III from N-anion addition to radical cation II", "smiles": null, "role": "reactive"}, {"name": "Carbocation IV from further anodic oxidation of radical III", "smiles": null, "role": "reactive"}, {"name": "Cyclized morpholine product 4ab after intramolecular O-attack and deprotonation", "smiles": null, "role": "reactive"}], "electron_flow": "DBU deprotonates the sulfonamide to give an N-centered anion (I); the anode oxidizes the aryl alkene (2b) to an alkene radical cation (II); I attacks II to give carbon-centered radical III with high regioselectivity; III is oxidized at the anode to cation IV; the tethered hydroxyl of 1a closes onto IV with proton release to form the saturated N/O-heterocycle, while H2 evolves at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "HFIP (added cosolvent / oxidation probe)", "smiles": "OC(C(F)(F)F)C(F)(F)F", "purpose": "redox_probe", "observation": "HFIP lowers oxidation potential of alkene 2b; with DBU+HFIP the DBU-induced lowering of sulfonamide oxidation is diminished, suggesting alkene is preferentially oxidized."}, {"name": "DBU (base)", "smiles": "C1CCC2=NCCCN2CC1", "purpose": "other", "observation": "Effectively reduces onset oxidation potential of sulfonamide 1a (CV), consistent with deprotonation to N-anion."}, {"name": "Na2CO3 (base in SWV control)", "smiles": "[Na+].[Na+].[O-]C([O-])=O", "purpose": "other", "observation": "Base significantly facilitates formation of intermediate III from I + II coupling without electrode SET."}, {"name": "1a + 2b mixing (SWV coupling test)", "smiles": null, "purpose": "intermediate_trap", "observation": "Adding 1a to 2b under SWV decreases the 2b oxidation current, indicating chemical coupling between N-anion I and radical cation II rather than independent SET."}], "evidence_types_used": ["cyclic_voltammetry", "intermediate_trap_other", "isolation_of_intermediate", "other"], "evidence_strength": "medium", "notes": "Key mechanistic support comes from CV/SWV (Figure 4) showing onset potentials 1a 2.21 V, 2b 1.46 V, 6b 1.67 V (vs Ag/AgCl) — alkene is oxidized preferentially — plus in situ EC-APCI-MS (Figure 5) detecting protonated intermediate III ([M+H]+ m/z 333.1393) and product 4ab ([M+H]+ m/z 332.1315) with real-time EIC profiles showing III rising then declining as 4ab forms. An alternative sulfonamide-N-radical addition pathway (oxidation of 1a first) is ruled out because HFIP/DBU experiments and lower potential of 2b indicate the alkene radical cation, not the N-radical, is the key oxidized species."}
